US06903118B1
b) 2-{2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethyl}-isoindolin-1,3-dione
40 g (−118 mmol) 2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethanol, 31.1 g (119 mmol) triphenylphosphine and 17.3 g (118 mmol) phthalimide are suspended in 200 ml THF and 24.2 ml (119 mmol) are azodicarbonic acid diethyl ester are added dropwise under protective atmosphere and light cooling (to Ca. 15° C.). The mixture is stirred without further cooling for three hours and subsequently, the solvent is removed under vacuum. The residue is taken up in 1N HCl and washed twice each with 50 ml acetic acid ethyl ester respectively. The aqueous phase is neutralized with ca. 50 g sodium hydrogen carbonate and extracted four times each with 125 ml chloroform. The combined chloroform phases are dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (99/1 to 90/10): Yield 11 g (19%).

reactant | 2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethanol | −118 mmol, 40 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCO)C1=CC=CC=C1 | C21H28N2O2
reactant | triphenylphosphine | 119 mmol, 31.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 118 mmol, 17.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-{2-[2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethyl}-isoindolin-1,3-dione | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C29H31N3O3
